Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o woman with COPD (40 pack yr, quit smoking 1 week ago), 
HTN, hx of breast cancer (s/p lumpectomy, in remission) p/w 
progressive cough and dyspnea X ___ weeks. At baseline, she does 
not use any supplemental O2, and is able to ambulate well. She 
was in her USOH until ___ weeks ago, when she began to feel 
feverish and had myalgias and felt like she had the flu, this 
subsided but she developed a dry cough and SOB that continued to 
progress. She came to ___ ED today because she felt that her 
SOB had worsened. She denies fevers, chills, chest pain, or 
URI/diarrheal symptoms.  
 In the ED, vitals were significant for afebrile, HR 107, BP 
155/80, RR 20, O2 92% on RA.  
 Physical exam was notable for diminished breath sounds and peak 
flow 140.  
 Labs were notable for WBC 16.8 N:75.6 L:17.9 M:3.7, and Lactate 
2.8.  
 Imaging was notable for: CXR "Small reticular opacities at R 
lung base - resolving pneumonia vs atelectasis"  
 EKG showed no ischemic or interval changes.  
 She was given albuterol nebs x2, ipratropium nebs x1, 
methylprednisolone IV 125mg, and 1L IV NS.  
 Vitals prior to transfer: 99.2 117 136/64 20 88% RA  
 On the floor, she is feeling better. She reports no SOB when 
laying flat in bed w/ NC in place, but feels SOB w/ exertion. 
Denies any CP and endorses ongoing dry cough. She has not 
coughed up any sputum or blood. She denies traveling anywhere in 
the last year, not even to the ___ area or 
otherwise within the ___. She has now been to the ___ in ___ 
twice and was evaluated by her PCP this ___. He prescribed 
her doxycycline 100 BID which she has been taking. At ___ 
few weeks ago, she was prescribed a 10 day prednisone taper that 
started at 40mg. She may have missed a day or 2 of that but has 
otherwise been taking it too, she had about 2 pills left before 
she came into the ED. For symptomatic relief she was taking 
Robittusen and tesselon pearls. She has been using her 
nebulizers at home to no avail. Her husband was sick with 
bronchitis a few weeks ago. She is up to date w/ flu and PNA 
shots per her. She denies any abd pain/n/v/d. Denies any 
fevers/chills. Denies blood in stools or urine.  
 REVIEW OF SYSTEMS:  
 (+) Per HPI  
 (-) 10 point ROS reviewed and negative unless stated above in 
HPI  
 
 
Past Medical History:
 - Hodgkin's lymphoma in ___ totally in remission  
 - breast cancer ___ years ago s/p lumpectomy in remission  
 (she recently saw her oncologist)  
 - in ___ she had a complicated medical course per her at ___ 
where they found an abscess on her intestine and needed to 
remove part of her intestines, she had multiple surgeries in 
that setting but no colostomy bag  
 - HTN  
 - COPD dx ___ years ago  
 - depression/anxiety 
 
Social History:
___
Family History:
NC 
 
Physical Exam:
>> ADMISSION PHYSICAL EXAM: 
Vital Signs: 97.6 PO 118/73 103 20 91 2L  
 General: Alert, oriented, no acute distress, NC in place  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL.  
 Neck: Supple. JVP not elevated. no LAD or TTP  
 CV: Regular rate and rhythm. Normal S1+S2, no murmurs, rubs, 
gallops.  
 Lungs: Poor air movement across span of lungs, no wheezes, 
rales, rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  
 LABS: reviewed. See below.  
. 
>> DISCHARGE PHYSICAL EXAM: 
Vitals: 97.7 PO 131 / 76 L Lying 90 18 91 3L 
Ambulatory O2 Sat on RA: 84 ; O2 Sat at Rest: 88
General: Alert, oriented x 3. No specific tachypnea or cyanosis. 

HEENT: Sclera anicteric, MMM, EOMI, PERRL. 
CV: RRR, S1, S2. No appreciable murmurs. 
Lungs: Bilaterally decreased, no wheezing or rales on morning 
exam. 
Abdomen: Soft, NT/ND. BS+. 
Extremities: 2+ pulses, no edema. 
Neuro: CN II-XII grossly intact, sensation intact. 
 
Pertinent Results:
>> ADMISSION LABS: 
___ 07:00PM BLOOD WBC-16.8* RBC-4.59 Hgb-13.5 Hct-43.1 
MCV-94 MCH-29.4 MCHC-31.3* RDW-15.1 RDWSD-51.7* Plt ___
___ 07:00PM BLOOD Neuts-75.6* Lymphs-17.9* Monos-3.7* 
Eos-1.2 Baso-0.3 Im ___ AbsNeut-12.71* AbsLymp-3.00 
AbsMono-0.62 AbsEos-0.20 AbsBaso-0.05
___ 06:05AM BLOOD ___ PTT-28.8 ___
___ 07:00PM BLOOD Glucose-182* UreaN-19 Creat-0.7 Na-138 
K-3.7 Cl-100 HCO3-27 AnGap-15
___ 06:05AM BLOOD ALT-10 AST-14 LD(LDH)-201 AlkPhos-67 
TotBili-0.2
___ 07:07PM BLOOD Lactate-2.8*
. 
>> DISCHARGE LABS: 
___ 04:30AM BLOOD WBC-17.9* RBC-4.63 Hgb-13.3 Hct-43.4 
MCV-94 MCH-28.7 MCHC-30.6* RDW-15.6* RDWSD-53.2* Plt ___
___ 04:30AM BLOOD Glucose-88 UreaN-17 Creat-0.6 Na-140 
K-4.0 Cl-101 HCO3-30 AnGap-13
. 
>> PERTINENT REPORTS: 

IMAGING: 
___ Imaging CHEST (PA & LAT): 
Small reticular opacities at the right lung base may represent 
resolving pneumonia versus atelectasis.  Additionally, linear 
opacity at the anterior left upper lung may be due to 
atelectasis/scarring, correlate with site of previously 
diagnosed pneumonia.  No prior study currently available for 
comparison.  Comparison with prior studies would be helpful.  
Recommend repeat radiographs in 4 weeks to document resolution. 
.
>> MICROBIOLOGY: 
__________________________________________________________
___ 7:12 pm URINE      CHEM S# ___ ADDED 05.26. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, in
      infected patients the excretion of antigen in urine may 
vary. 
__________________________________________________________
___ 7:12 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
__________________________________________________________
___ 7:00 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman, with history of COPD, 
significant tobacco abuse history, Hogdkin's lymphoma s/p 
remission, breast cancer s/p lumpectomy in remission, now with 
worsening dyspnea c/f COPD exacerbation. 

#COPD Exacerbation: Patient had initially presented with former 
40 pack year history of smoking (having recently quit about 1 
week prior to admission), with 6 week history of initially viral 
influenza type illness. Patient was given outpatient steroid 
course 2 days prior to admission, however continued to have 
worsening dyspnea. Patient was found to be hypoxic on arrival to 
the ED, underwent chest radiograph which showed resolving 
pneumonia, and was started initially on steroids and 
levofloxacin given concern for potentially resolving bacterial 
process. Patient started to have improvement in dyspnea and 
tachypnea, however continued to be hypoxic both at rest and with 
ambulation. Advair diskus was increased prior to discharge, and 
patient's pulmonary office was contacted for appointment urgent. 
Other etiologies were considered including pulmonary embolism 
given patient's persistent hypoxia, however given low likelihood 
(alternative diagnoses, no significant risk factors or 
immobility), considered low likelihood. Patient was then set up 
with home oxygen with instruction, given information regarding 
continued tobacco cessation, and follow up scheduled. Patient 
therefore to continue prednisone and levofloxacin for course. 
. 
# Hypertension: Patient was continued on home amlodopine. 
. 
# Osteoperosis: Patient was continued on home alendronate. Given 
potential for further steroid courses given COPD, please 
consider close follow up. 
. 
# Hyperlipidemia: Patient was continued on home simvastatin. 
. 
# Depression/Anxiety: Patient was continued on home sertraline, 
and lorazepam PRN. 
. 
>> TRANSITIONAL ISSUES: 
# COPD Exacerbation: Patient to continue prednisone x 5 days 
(___)
# COPD Exacerbation: Please complete antibiotics with 
levofloxacin x 5 days (end date ___
# COPD Regimen: Patient to continue tiotropium, albuterol, 
antibiotics, and advair. Please follow up with patient, and 
consider repeat evaluation by her pulmnologist to optimize 
regimen in outpatient setting. 
# Pneumonia: Please repeat CXR in ___ weeks to ensure 
improvement in pneumonia, and if patient does continue to have 
persistent findings, would consider repeat CT chest given 
underlying tobacco abuse, and malignancy history. 
# Home Oxygen: Patient was set up with home oxygen upon leaving 
the hospital. Discussed with the team that patient should not 
continue to smoke, or be in vicinity of other smoking 
specifically with risk of supplemental oxygen.
# CONTACT: Name of health care proxy: ___ ; Relationship: 
friend ; Phone number: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Doxycycline Hyclate 100 mg PO Q12H 
2. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
3. Tiotropium Bromide 1 CAP IH DAILY 
4. Ipratropium-Albuterol Neb 1 NEB NEB BID 
5. Sertraline 150 mg PO DAILY 
6. LORazepam 0.5 mg PO Q8H:PRN anxiety 
7. Alendronate Sodium 70 mg PO QSUN 
8. amLODIPine 5 mg PO DAILY 
9. Simvastatin 20 mg PO QPM 

 
Discharge Medications:
1.  Benzonatate 100 mg PO TID:PRN cough 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times daily 
Disp #*30 Capsule Refills:*0 
2.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
RX *fluticasone-salmeterol [Advair Diskus] 500 mcg-50 mcg/dose 1 
dose INH twice daily Disp #*60 Disk Refills:*0 
3.  Levofloxacin 750 mg PO DAILY 
RX *levofloxacin 750 mg 1 tablet(s) by mouth daily Disp #*1 
Tablet Refills:*0 
4.  PredniSONE 60 mg PO DAILY Duration: 5 Doses 
RX *prednisone 50 mg 1 tablet(s) by mouth daily Disp #*1 Tablet 
Refills:*0 
5.  Alendronate Sodium 70 mg PO QSUN  
6.  amLODIPine 5 mg PO DAILY  
7.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
8.  LORazepam 0.5 mg PO Q8H:PRN anxiety  
9.  Sertraline 150 mg PO DAILY  
10.  Simvastatin 20 mg PO QPM  
11.  Tiotropium Bromide 1 CAP IH DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
1. COPD Acute Exacerbation
2. Tobacco Dependence
3. Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you during your hospital stay 
at ___. You were admitted to 
the hospital for increased shortness of breath. We suspect you 
are having an exacerbation of your underlying COPD, likely 
triggered from an infection. For this, we treated you with 
breathing treatments, antibiotics, and you improved in the 
hospital. While here, your oxygen levels were still quite low 
with improvement of your infection, and we set up home oxygen 
for you upon leaving the hospital. 

Please continue to follow up with your primary care physician 
and specialists upon discharge from the hospital. 

Take Care,
Your ___ Team. 
 
Followup Instructions:
___